US07863446B2
Synthesis of 5-amino-1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-3-methyl-1H-pyrazole-4-carbonitrile
1-Methoxyethylidene malononitrile (0.17 g, 1.36 mmol) (prepared from malononitrile and triethyl orthoacetate by heating with acetic anhydride) was heated with 4-hydrazino-5,6-diphenyl-2-(trifluoromethyl)pyrimidine (0.15 g, 0.45 mmol) in methanol (6 ml), overnight at 60-65° C. The solid that separated out from the reaction mixture was filtered and washed with methanol (5 ml), to yield the title compound. 1H-NMR (DMSO-d6) δ: 1.97 (s, 3H), 6.97 (br, 2H, D2O exchangeable), 7.07 (d, 2H), 7.26-7.38 (m, 7H), 7.40-7.41 (m, 1H); MS m/z: 421.1 (M++1).

reactant | 1-Methoxyethylidene malononitrile | 1.36 mmol, 0.17 g | COC(C)=C(C#N)C#N | C6H6N2O
reactant | 4-hydrazino-5,6-diphenyl-2-(trifluoromethyl)pyrimidine | 0.45 mmol, 0.15 g | N(N)C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C17H13F3N4
solvent | methanol | 6 ml | CO | CH4O
product | 5-amino-1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-3-methyl-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F)C)C#N | C22H15F3N6
